US08242133B2
To a mixture of 1.17 g of N-(2-hydroxy-5-methoxyphenyl)isonicotinamide, 1.26 g of triphenylphosphine and 25 ml of tetrahydrofuran, a mixture of 0.85 g diethyl azodicarboxylate and 5 ml of tetrahydrofuran was added dropwise. The mixture was warmed to room temperature and stirred for four hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The combined organic layers were washed with water and a saturated sodium chloride solution, and dried over magnesium sulfate. Activated carbon was added thereto, which was filtered through Celite™. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.11 g of 5-methoxy-2-(pyridin-4-yl)-benzoxazole (hereinafter, referred to as “active compound 11”).

reactant | N-(2-hydroxy-5-methoxyphenyl)isonicotinamide | 1.17 g | OC1=C(C=C(C=C1)OC)NC(C1=CC=NC=C1)=O | C13H12N2O3
reactant | triphenylphosphine | 1.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | diethyl azodicarboxylate | 0.85 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 5-methoxy-2-(pyridin-4-yl)-benzoxazole | 0.11 g | COC=1C=CC2=C(N=C(O2)C2=CC=NC=C2)C1 | C13H10N2O2
